US07326715B2
To a stirring solution of 4-(2-hydroxy-ethylamino)-6-(3-trifluoromethyl-phenyl)-pyrimidine-2-carbonitrile (308 mg) in dichloromethane (5 ml) was added Dess-Martin periodinane (424 mg) and the resulting suspension was stirred at room temperature for 45 mins. Reaction mixture was diluted with dichloromethane (50 ml) and washed with water (3×50 ml), brine (50 ml), dried over MgSO4 and concentrated in vacuo. The residue was filtered through silica gel pad using heptane and ethyl acetate (1:1) as eluant, solvent was removed in vacuo to give 4-(2-oxo-ethylamino)-6-(3-trifluoromethylphenyl)-pyrimidine-2-carbonitrile as a white solid (206 mg) MS m/z: 307.5 (M+1).

reactant | 4-(2-hydroxy-ethylamino)-6-(3-trifluoromethyl-phenyl)-pyrimidine-2-carbonitrile | 308 mg | OCCNC1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)C#N | C14H11F3N4O
reactant | Dess-Martin periodinane | 424 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-(2-oxo-ethylamino)-6-(3-trifluoromethylphenyl)-pyrimidine-2-carbonitrile | 206 mg | O=CCNC1=NC(=NC(=C1)C1=CC(=CC=C1)C(F)(F)F)C#N | C14H9F3N4O
